US04431652
Step A. 4-(chloromethyl)-2-(3,4-dichlorophenyl)thiazole
A mixture of 3,4-dichlorothiobenzamide (8.24 g., 0.04 mol), 1,3-dichloroacetone (5.1 g., 0.04 mol) in acetone (150 ml) was stirred at room temperature overnight. After evaporation of the acetone under reduced pressure, the residue was dissolved in methanol (150 ml) and the solution refluxed 11/2 hours. After cooling and removal of the methanol, the residue was slurried with a small quantity of methanol. The solids which formed after filtration showed m.p. 93°-96° C. (6.05 g.).

reactant | 3,4-dichlorothiobenzamide | 0.04 mol, 8.24 g | ClC=1C=C(C(=S)N)C=CC1Cl | C7H5Cl2NS
reactant | 1,3-dichloroacetone | 0.04 mol, 5.1 g | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-(chloromethyl)-2-(3,4-dichlorophenyl)thiazole | ClCC=1N=C(SC1)C1=CC(=C(C=C1)Cl)Cl | C10H6Cl3NS
